* source RECTIFIER
V_V1         N00287 0  
+SIN 0 12V 60Hz 0 0 0
R_R3         0 N00190  1k TC=0,0 
R_R2         N00294 N01704  1 TC=0,0 
D_D1         N00131 N00190 Dbreak 
V_V2         0 N00294  
+SIN 0 12V 60Hz 0 0 0
R_R1         N00287 N00131  1 TC=0,0 
D_D2         N01704 N00190 Dbreak 
