* source SEQUENCIAL LOGIC CIRCUIT
.EXTERNAL OUTPUT Q0
.EXTERNAL OUTPUT Q1
X_U1A         N00418 N00422 N00426 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00426 N00430 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00430 Q1 N00434 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N00434 N00442 Q0 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $D_HI Q0 N00454 $D_HI Q1 M_UN0001 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_X         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00418 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
+ 0.3us 0  
+ 0.7us 1 
+ 1.1us 0  
+ 1.5us 1  
+ 1.7us 0  
U_Y         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00422 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
+ 0.3us 0  
+ 0.5us 1 
+ 0.7us 0  
+ 1.5us 1  
+ 1.7us 0  
U_RST         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00442 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
+ 0.9us 0  
+ 1.1us 1 
U_CLK         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00454 
+ IO_STM
+ IO_LEVEL=0
+  0us 1  
+ 0.1us 0  
+ 0.2us 1  
+ 0.3us 0 
+ 0.4us 1  
+ 0.5us 0  
+ 0.6us 1  
+ 0.7us 0  
+ 0.8us 1  
+ 0.9us 0  
+ 1.0us 1  
+ 1.1us 0 
+ 1.2us 1 
+ 1.3us 0 
+ 1.4us 1 
+ 1.5us 0
