* source SEQUENCIAL LOGIC CIRCUIT
.EXTERNAL OUTPUT Q1
.EXTERNAL OUTPUT Q2
.EXTERNAL OUTPUT Q3
.EXTERNAL OUTPUT Q4
X_U1         N01223 $D_HI $D_HI N01265 $D_HI M_UN0001 M_UN0002 M_UN0003
+  M_UN0004 Q1 Q2 Q3 Q4 M_UN0005 $G_DPWR $G_DGND 74163 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CLK         STIM(1,1) $G_DPWR $G_DGND N01223 IO_STM IO_LEVEL=0 
+ 0 1
+ +0.1us 0
+REPEAT FOREVER
+ +0.1us 1
+  +0.1us 0
+ ENDREPEAT
X_U2A         Q4 Q2 N01265 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
