* source SEQUENCIAL LOGIC CIRCUIT
.EXTERNAL OUTPUT Q1
.EXTERNAL OUTPUT Q2
.EXTERNAL OUTPUT Q3
.EXTERNAL OUTPUT Q4
X_U1         N01223 $D_HI $D_HI $D_HI N01616 $D_HI $D_LO $D_HI $D_LO Q1 Q2 Q3
+  Q4 M_UN0001 $G_DPWR $G_DGND 74163 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CLK         STIM(1,1) $G_DPWR $G_DGND N01223 IO_STM IO_LEVEL=0 
+ 0 1
+ +0.1us 0
+REPEAT FOREVER
+ +0.1us 1
+  +0.1us 0
+ ENDREPEAT
X_U2A         Q4 Q2 N01274 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N01274 N01742 N01616 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_X         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01742 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
