* source SEQUENCIAL LOGIC CIRCUIT
.EXTERNAL OUTPUT Q3
.EXTERNAL OUTPUT Q2
.EXTERNAL OUTPUT Q1
.EXTERNAL OUTPUT Q0
X_U1         N02331 $D_HI $D_HI $D_LO N02386 M_UN0001 M_UN0002 M_UN0003
+  M_UN0004 M_UN0005 Q3 Q2 Q1 Q0 $G_DPWR $G_DGND 74194 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         Q3 N02386 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CLK         STIM(1,1) $G_DPWR $G_DGND N02331 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.1us 1
+REPEAT FOREVER
+ +0.1us 0
+  +0.1us 1
+ ENDREPEAT
