* source SHIFT REGISTERS
.EXTERNAL OUTPUT A
.EXTERNAL OUTPUT B
.EXTERNAL OUTPUT C
.EXTERNAL OUTPUT D
X_U1A         N00500 $D_HI N00556 N00479 N00496 A N00535 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00500 $D_HI N00556 A N00535 B N00595 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00500 $D_HI N00556 B N00595 C N00684 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00500 $D_HI N00556 C N00684 D M_UN0001 $G_DPWR $G_DGND 7476
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00479 N00496 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_INPUT         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00479 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 1.2us 0  
+ 1.4us 1  
+ 1.6us 0  
U_CP         STIM(1,1) $G_DPWR $G_DGND N00500 IO_STM IO_LEVEL=0 
+ 0 1
+ +0 0
+REPEAT FOREVER
+ +0.1us 1
+  +0.1us 0
+ ENDREPEAT
U_CLR         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00556 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
