* source SIGNAL GENERATOR
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT Vo
Q_Q1         N00269 N00280 N00284 Q2N2222
R_R1         N00273 N00280  5k TC=0,0 
R_R2         VCC N00269  1k TC=0,0 
D_D1         N00284 VO D1N4148 
L_L1         0 VO  10mH  
C_C1         VO 0  1u  TC=0,0 
V_V1         N00273 0  
+PULSE -2.5V 2V 0ms 0ms 0ms 1ms 2ms
V_V2         VCC 0 DC 10V  
