* source SIGNAL GENERATOR
C_C1         N01042 N01035  0.1u  TC=0,0 
C_C2         N01051 N01058  0.1u  TC=0,0 
R_R1         N01158 N01042  1k TC=0,0 
R_R2         N01158 N01051  100k TC=0,0 
R_R3         N01158 N01035  100k TC=0,0 
R_R4         N01158 N01058  1k TC=0,0 
Q_Q1         N01042 N01051 0 Q2N2222
Q_Q2         N01058 N01035 0 Q2N2222
V_V1         N01158 0 DC 5V AC 0 
