* source SIGNAL GENERATOR
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
V_V1         VCC 0 DC 5V  
V_V2         VEE 0 DC -5V  
D_D1         N04552 N04345 D1N4148 
R_R5         N04345 0  1k TC=0,0 
R_R4         N04331 0  1k TC=0,0 
X_U1         N04331 N04275 VCC VEE N04345 uA741
R_R3         N04331 N04345  1k TC=0,0 
R_R2         N04275 N04470  1k TC=0,0 
R_R1         N04275 N04552  2k TC=0,0 
C_C1         N04275 0  1u  TC=0,0 
D_D2         N04345 N04470 D1N4148 
