* source SIGNAL GENERATOR
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
V_V1         VCC 0 DC 15V  
R_R6         N03457 N03538  1k TC=0,0 
X_U2         0 N03457 VCC VEE N03538 uA741
R_R2         N03331 N03589  0.1k TC=0,0 
X_U3         N03603 N03538 VCC VEE N03589 uA741
R_R4         N03603 0  1k TC=0,0 
V_V2         VEE 0 DC -15V  
C_C1         N03208 N03256  0.1u  TC=0,0 
R_R3         N03589 N03603  1k TC=0,0 
R_R5         N03256 N03457  1k TC=0,0 
X_U1         0 N03208 VCC VEE N03256 uA741
R_R1         N03331 N03208  3k TC=0,0 
