* source SUPERPOSITION
R_R1         N00207 N00214  2k TC=0,0 
R_R2         N00214 N00228  1k TC=0,0 
R_R3         N00214 0  2k TC=0,0 
I_I1         0 N00228 DC 2mAdc  
V_V1         N00207 0 2Vdc
