* source SYSTEM CIRCUIT
.EXTERNAL OUTPUT QA
.EXTERNAL OUTPUT QB
.EXTERNAL OUTPUT QC
.EXTERNAL OUTPUT QD
X_U1         N00972 $D_HI $D_HI N00697 N00891 N00991 N00991 N01084 N01019 QA QB
+  QC QD M_UN0001 $G_DPWR $G_DGND 74163 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00991 N01238 N01084 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00991 N01234 N01019 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         QD QC N00891 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         QB N00697 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CLK         STIM(1,1) $G_DPWR $G_DGND N00972 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.1us 1
+REPEAT FOREVER
+ +0.1us 0
+  +0.1us 1
+ ENDREPEAT
U_RIGHT         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01234 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1.2us 1  
+ 1.4us 0  
U_LEFT         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01238 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
+ 0.3us 0  
U_EMR         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00991 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2.2us 1  
+ 2.4us 0  
