* source SYSTEM CIRCUIT
.EXTERNAL OUTPUT Q0
X_U1         $D_HI N02331 N02145 N02145 N01998 N02002 N02006 N02069 N02081
+  N02093 N02057 M_UN0001 $G_DPWR $G_DGND 74164 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         N01998 N02002 N02006 N02081 N02093 N02018 N02018 N02018 Q0 $G_DPWR
+  $G_DGND 7430 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CLK         STIM(1,1) $G_DPWR $G_DGND N02331 IO_STM IO_LEVEL=0 
+ 0 1
+ +0.1us 0
+REPEAT FOREVER
+ +0.1us 1
+  +0.1us 0
+ ENDREPEAT
U_X         STIM(1,1)
+ $G_DPWR $G_DGND
+ N02145 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.1us 1  
+ 0.5us 0  
+ 0.7us 1 
+ 1.3us 0  
+ 1.5us 1  
+ 1.7us 0  
X_U3A         N02069 N02057 N02145 N02018 $G_DPWR $G_DGND 7427 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
