* source SYSTEM CIRCUIT
.EXTERNAL OUTPUT O1
.EXTERNAL OUTPUT O2
.EXTERNAL OUTPUT O3
.EXTERNAL OUTPUT O4
.EXTERNAL OUTPUT O5
X_U1A         N03835 O1 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $D_HI O1 N03734 $D_HI O2 N03823 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         $D_HI O2 N03734 $D_HI O3 N03842 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $D_HI O3 N03734 $D_HI O4 N03908 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         $D_HI O4 N03734 $D_HI O5 N03920 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CLK         STIM(1,1) $G_DPWR $G_DGND N03734 IO_STM IO_LEVEL=0 
+ 0 1
+ +0.1us 0
+REPEAT FOREVER
+ +0.1us 1
+  +0.1us 0
+ ENDREPEAT
X_U4A         N03823 N03842 N03908 N03920 N03835 $G_DPWR $G_DGND 7440 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
