* source THEVENIN & NORTON
R_R1         N00197 N00204  2k TC=0,0 
R_R2         N00204 0  2k TC=0,0 
R_RL         N00204 0  1k TC=0,0 
R_Rth1         N00244 N00251  1k TC=0,0 
R_RL1         N00251 0  1k TC=0,0 
R_Rth2         N00331 0  1k TC=0,0 
R_RL2         N00331 0  1k TC=0,0 
V_Vin         N00197 0 2Vdc
V_Veq         N00244 0 2Vdc
I_Ieq         0 N00331 DC 2mA  
