* source TRANSFER
X_U1         N00204 N00208 +15 -15 N00228 uA741
R_R1         N00197 N00204  10k TC=0,0 
R_R2         N00204 N00228  100k TC=0,0 
R_R3         0 N00208  10k TC=0,0 
R_R4         N00244 N00228  1k TC=0,0 
V_V1         N00197 N00244 DC 1V  
V_V2         +15 0 15V
V_V3         -15 0 -15V
