* source TRANSISTOR AMPLIFIER
.EXTERNAL OUTPUT VCC
C_C4         N02518 N01306  7.5uF  TC=0,0 
R_R10         0 N01306  10k TC=0,0 
R_R8         0 N01339  20k TC=0,0 
R_R5         N00312 N00308  500 TC=0,0 
C_C3         N00346 0  250uF  TC=0,0 
R_R7         N02518 VCC  15k TC=0,0 
V_V2         VCC 0 DC 5V  
C_C2         N00269 N00446  50uF  TC=0,0 
C_C1         N00308 N00285  1uF  TC=0,0 
R_R1         N00269 VCC  15k TC=0,0 
R_R9         N01339 VCC  40k TC=0,0 
Q_Q2         N02518 N01339 N00446 Q2N2222
R_R4         0 N00285  20k TC=0,0 
R_R3         N00285 VCC  40k TC=0,0 
C_C5         0 N01339  10uF  TC=0,0 
R_R2         0 N00346  9.3k TC=0,0 
V_V1         N00312 0 DC 5V AC 1V 
R_R6         0 N00446  9.3k TC=0,0 
Q_Q1         N00269 N00285 N00346 Q2N2222
