* source TRANSISTOR AMPLIFIER
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT -VEE
R_R1         N00185 VCC  500 TC=0,0 
R_R2         N00211 VCC  500 TC=0,0 
R_R3         -VEE N00279  150 TC=0,0 
R_R4         0 N00268  2k TC=0,0 
Q_Q1         N00185 N00581 N00189 Q2N2222
Q_Q2         N00211 0 N00189 Q2N2222
Q_Q3         N00189 N00268 N00279 Q2N2222
D_D1         N00268 N00275 D1N4148 
D_D2         N00275 -VEE D1N4148 
V_V1         VCC 0 DC 15V  
V_V2         -VEE 0 DC -15V  
V_V3         N00581 0 DC -0.1mV  
