* source TRANSISTOR AMPLIFIER
.EXTERNAL OUTPUT -VEE
.EXTERNAL OUTPUT VCC
V_V2         -VEE 0 DC -15V  
Q_Q1         N01738 N01984 N01746 Q2N2222
Q_Q3         N01758 N01742 N01766 Q2N2222
R_R3         N01758 VCC  1.2k TC=0,0 
Q_Q2         N01742 0 N01746 Q2N2222
R_R4         N01762 VCC  1.2k TC=0,0 
V_V1         VCC 0 DC 15V  
R_R1         N01738 VCC  2.2k TC=0,0 
R_R2         N01742 VCC  2.2k TC=0,0 
Q_Q4         N01762 N01738 N01766 Q2N2222
R_R5         -VEE N01746  4.7k TC=0,0 
R_R6         -VEE N01766  15k TC=0,0 
V_V3         N01984 0  AC -10V 
