* source VOLTAGE CONTROLLED OSCILLATORS
C_C1         INT 0  1  TC=0,0 
R_R1         INT 0  1 TC=0,0 
G_G1         0 INT VALUE { K1 + V(N00175, 0) }
V_V1         N00175 0  
+PWL 0 0V 5u 0V 5.001u 1V 10u 1V 
E_E1         N00409 0 VALUE { K0 * SIN(TWOPI * (FC * TIME + V(INT))) }
R_R2         N00409 0  1G TC=0,0 
.PARAM  k0=1 twopi=6.28 k1=1meg fc=1meg
