* source VOLTAGE MULTIPLIER
D_D1         0 N00209 Dbreak 
C_C1         N00202 N00209  1000uF  TC=0,0 
D_D2         N00209 VOUT Dbreak 
C_C2         VOUT 0  1000uF  TC=0,0 
V_V1         N00202 0  
+SIN 0 12V 60Hz 0 0 0
