* source HFE BETA
Q_Q1         N00119 N00112 0 Q2N2222
R_R2         N00123 N00119  1k TC=0,0 
R_R1         N00123 N00112  390k TC=0,0 
C_C1         N00197 N00112  1n  TC=0,0 
V_V2         N00123 0 20Vdc
V_V1         N00197 0  
+SIN 0 10mV 1k 0 0 0
